US07589076B2
2-{3-[1-((4-Methyl)phenoxycarbanoyl)piperidin-4-yl]propyn-1-yl}adenosine.
Batch: AB-10-019. 4-methylphenyl 4-(prop-2-ynyl)piperidine-1-carboxylate, batch JR28-105 (0.548 g, 2.130 mmol) was added to a solution of 2-iodoadenosine (0.629 g, 1.600 mmol) according to general procedure 2. Yield: 0.236 g, 28%. 1H NMR (CD3OD) δ 8.29 (s, 1H), 7.14-6.92 (2×m, 4H), 5.95 (d, 1H), 4.75 (m, 2H), 4.34-4.16 (2×m, 3H), 3.91-3.71 (2×d, 2H), 3.10-2.90 (2×bt, 4H), 2.28 (s, 3H), 2.43 (d, 5H), 1.92-1.41 (2×m, 5H). m/Z MH+=523.16. HPLC rt=6.8 min.

reactant | 4-methylphenyl 4-(prop-2-ynyl)piperidine-1-carboxylate | C(C#C)C1CCN(CC1)C(=O)OC1=CC=C(C=C1)C | C16H19NO2
reactant | 2-iodoadenosine | 1.600 mmol, 0.629 g | IC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H12IN5O4
product | 2-{3-[1-((4-Methyl)phenoxycarbanoyl)piperidin-4-yl]propyn-1-yl}adenosine | CC1=CC=C(OC(=O)N2CCC(CC2)CC#CC=2N=C(C=3N=CN([C@H]4[C@H](O)[C@H](O)[C@@H](CO)O4)C3N2)N)C=C1 | C26H30N6O6
